US07488832B2
A solution of 1.43 g (5 mmol) 1-phenyl-4-(4-propyl-cyclohexyl)-butane-1,4-dione and 0.75 g (10 mmol) glycine 16 mL of acetic acid was heated to reflux for 100 min. The solution was concentrated and redissolved in 5% aqueous H2SO4. The solution was extracted with ethyl acetate. The organic phase was dried over MgSO4 and concentrated to afford 0.91 g [2-phenyl-5-(4-propyl-cyclohexyl)-pyrrol-1-yl]-acetic acid as a tan solid which was carried on to the next step without purification.

reactant | 1-phenyl-4-(4-propyl-cyclohexyl)-butane-1,4-dione | 5 mmol, 1.43 g | C1(=CC=CC=C1)C(CCC(=O)C1CCC(CC1)CCC)=O | C19H26O2
reactant | glycine | 10 mmol, 16 mL, 0.75 g | NCC(=O)O | C2H5NO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | [2-phenyl-5-(4-propyl-cyclohexyl)-pyrrol-1-yl]-acetic acid | 0.91 g | C1(=CC=CC=C1)C=1N(C(=CC1)C1CCC(CC1)CCC)CC(=O)O | C21H27NO2
